US04978665
2-ethyl-4,6-dichloro-5-(3-n-propoxy-4-methoxybenzylamino)-3(2H)pyridazinone (Compound No. 62)
A mixture comprising 455 mg of 2-ethyl-4,5,6-trichloro-3(2H)pyridazinone, 1.20 g of 3-n-propoxy-4-methoxybenzylamine and 20 ml of ethanol, was refluxed under stirring for 3.5 hours. Ethanol was distilled off under reduced pressure, and water was poured into the residue thereby obtained. The mixture was extracted with ethyl acetate. The extract was washed with dilute hydrochloric acid and water in this order and dried over sodium sulfate. Then, the solvent was distilled off to obtain a light brown viscous oily substance. The product was purified by silica gel column chromatography by using a solvent mixture of benzene-ethyl acetate (15:1 v/v) as the eluent, to obtain 277 mg of the above identified compound. The physical properties and the spectrum data of NMR and MS of the compound completely agreed to those of the compound prepared by the method (1).

reactant | 2-ethyl-4,5,6-trichloro-3(2H)pyridazinone | 455 mg | C(C)N1N=C(C(=C(C1=O)Cl)Cl)Cl | C6H5Cl3N2O
reactant | 3-n-propoxy-4-methoxybenzylamine | 1.20 g | C(CC)OC=1C=C(CN)C=CC1OC | C11H17NO2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-ethyl-4,6-dichloro-5-(3-n-propoxy-4-methoxybenzylamino)-3(2H)pyridazinone | C(C)N1N=C(C(=C(C1=O)Cl)NCC1=CC(=C(C=C1)OC)OCCC)Cl | C17H21Cl2N3O3
